US08058299B2
4-(5-Amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester described above was mixed with 2-phenyl-5-trifluoromethyloxazole-4-carboxylic acid (771 mg, 3.0 mmol) and bromotrispyrrolidinophosphonium hexafluorophosphate (1.40 g, 3.0 mmol) in N,N-dimethylformamide (20 mL) and methylene chloride (5 mL) containing triethylamine (0.85 mL). The mixture was stirred at room temperature overnight and the solvents were evaporated. The residue was partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate and solvent was evaporated. The residue was triturated with ethyl acetate and the solid was filtered to give 4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester (1.09 g). LC-MS calcd for C25H26F3N5O4 (m/e) 517.5, obsd 518.1 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4-(5-Amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)N | C14H22N4O2
reactant | 2-phenyl-5-trifluoromethyloxazole-4-carboxylic acid | 3.0 mmol, 771 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | bromotrispyrrolidinophosphonium hexafluorophosphate | 3.0 mmol, 1.40 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | triethylamine | 0.85 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | 1.09 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C25H26F3N5O4
